US04857658
To 78 g (297 mmol) of triphenylphosphine in 150 ml of methanol were added dropwise with stirring 48.3 g (300 mmol) of 2-chlorobenzyl chloride, and the reaction mixture was heated under reflux for 2 hours. After the reaction mixture had been cooled down to 0° C., 46.4 g (309 mmol) of o-phthalaldehydic acid were added with stirring in the course of about 1 min. Thereafter 135 g (750 mmol) of a 30% strength solution of sodium methylate in methanol were added at 0°-10° C. with stirring in the course of 45 min and stirred in at 0°-10° C. for 3 hours, and the reaction mixture was worked up in a conventional manner to give 72 g (94%) of (E/Z)-2-[2-(2-chlorophenyl)ethenylbenzoic acid in a ratio of ~11:89 in the form of colorless crystals having a melting point of 144°-148° C.

reactant | triphenylphosphine | 297 mmol, 78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chlorobenzyl chloride | 300 mmol, 48.3 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | o-phthalaldehydic acid | 309 mmol, 46.4 g | C1=CC=C2C(=C1)C(OC2=O)O | C8H6O3
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 2-(2-chlorophenyl)ethenylbenzoic acid | ClC1=C(C=CC=C1)C=CC1=C(C(=O)O)C=CC=C1 | C15H11ClO2
